US06600038B1
In 4 ml of ethanol, 0.16 g of 5-carbamoyl-1,2,3,6-tetrahydropyridine hydrochlioride, 0.40 g of 2-[6-chloro-2-methyl-8-oxo-9-(4-isopropyl-2-methylthiophenyl)-8,9-dihydropurin-7-yl]acetamide, and 0.38 g of diisopropylethylamine were dissolved. Several drops of water were added thereto, and the reaction mixture was heated under reflux for 17 hours. The reaction mixture was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent:chloroform—methanol=7:1), followed by crystallization from ethyl acetate to yield 0.22 g of 2-[6-(4-carbamoyl-1,2,3,6-tetrahydropyridin-1-yl)-2-methyl-8-oxo-9-(4-isopropyl-2-methylthiophenyl)-8,9-dihydropurin-7-yl]acetamide.

reactant | 5-carbamoyl-1,2,3,6-tetrahydropyridine | 0.16 g | C(N)(=O)C1=CCCNC1 | C6H10N2O
reactant | 2-[6-chloro-2-methyl-8-oxo-9-(4-isopropyl-2-methylthiophenyl)-8,9-dihydropurin-7-yl]acetamide | 0.40 g | ClC1=C2N(C(N(C2=NC(=N1)C)C1=C(C=C(C=C1)C(C)C)SC)=O)CC(=O)N | C18H20ClN5O2S
reactant | diisopropylethylamine | 0.38 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethanol | 4 ml | C(C)O | C2H6O
catalyst | water | Several drops | O | H2O
product | 2-[6-(4-carbamoyl-1,2,3,6-tetrahydropyridin-1-yl)-2-methyl-8-oxo-9-(4-isopropyl-2-methylthiophenyl)-8,9-dihydropurin-7-yl]acetamide | 0.22 g | C(N)(=O)C=1CCN(CC1)C1=C2N(C(N(C2=NC(=N1)C)C1=C(C=C(C=C1)C(C)C)SC)=O)CC(=O)N | C24H29N7O3S
